US07183276B2
To a mixed solution of methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate (3.0 g), imidazole (0.82 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.5 g), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into iced water, and the precipitated crystals were collected by filtration to give methyl 3-[4-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-5-oxazolyl]propionate (1.6 g, yield 80%) as crystals. Recrystallization from methanol gave colorless prism crystals. melting point: 95–96° C.

reactant | methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate | 3.0 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | imidazole | 0.82 g | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.5 g | [H-].[Na+]
solvent | water | O | H2O
product | methyl 3-[4-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-5-oxazolyl]propionate | 1.6 g, yield 80% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OC)N1C=NC=C1 | C16H14ClN3O3
